// Generated for: spectre (Mar 20 14:02:53 2013 )
// Library name: gsclib045
// Cell name: AOI2BB2X4
// View name: schematic

simulator lang=spectre

subckt AOI2BB2X4 A0N A1N B0 B1 Y VSS VDD
mn5 (net152 B1 VSS VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn4 (Y B0 net152 VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn3 (Y net144 net160 VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn2 (net160 net148 VSS VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn0 (net148 A0N VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn1 (net144 A1N VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mp5 (Y B1 net127 VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp4 (Y B0 net127 VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp2 (net127 net148 VDD VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp0 (net148 A0N VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp1 (net144 A1N VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp3 (net127 net144 VDD VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
ends AOI2BB2X4
// End of subcircuit definition.

