// Generated for: spectre (Mar 20 14:03:06 2013 )
// Library name: gsclib045
// Cell name: AOI32X4
// View name: schematic

simulator lang=spectre

subckt AOI32X4 A0 A1 A2 B0 B1 Y VSS VDD
mn3 (net118 B0 VSS VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn2 (Y A2 net126 VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn0 (net122 A0 VSS VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn1 (net126 A1 net122 VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn4 (Y B1 net118 VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mp3 (Y B0 net106 VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp4 (Y B1 net106 VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp2 (net106 A2 VDD VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp1 (net106 A1 VDD VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp0 (net106 A0 VDD VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
ends AOI32X4
// End of subcircuit definition.

